US07329656B2
6-(Pyridin-4-ylsulfanyl)-pyridine-3-carbaldehyde:
To a solution of 4-mercaptopyridine (5.59 g, 50.3 mmol) in DMF (100 mL) was added NaH (60% dispersion in oil, 1.99 g, 49.7 mmol) in portions and the mixture was stirred for 20 min. 6-Bromo-3-pyridine carboxaldehyde (9.22 g, 49.6 mmol) was added and the resultant mixture was stirred for 1 h. Water was added followed by the addition of EtOAc. The phases were separated and the aqueous layer was extracted with EtOAc (2×). The organic extracts were combined, dried over Na2SO4, filtered and concentrated in vacuo to give a crude product, which was purified by recrystallization from EtOAc. The resultant colored solid was filtered through a silica gel column (eluent: MTBE). Evaporation of the filtrate and further recrystallization from MTBE gave the product as a white solid (8.1 g, 76% yield).

reactant | 4-mercaptopyridine | 50.3 mmol, 5.59 g | SC1=CC=NC=C1 | C5H5NS
reactant | NaH | 49.7 mmol, 1.99 g | [H-].[Na+]
reactant | 6-Bromo-3-pyridine carboxaldehyde | 49.6 mmol, 9.22 g | BrC1=CC=C(C=N1)C=O | C6H4BrNO
reactant | Water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(Pyridin-4-ylsulfanyl)-pyridine-3-carbaldehyde | 8.1 g, 76% yield | N1=CC=C(C=C1)SC1=CC=C(C=N1)C=O | C11H8N2OS
